US09416135B2
To a solution of 1,1,1-trifluoropentane-2,4-dione (200 g, 1.30 mol) in ethanol (200 mL) were added urea (78 g, 1.30 mol) and CH(OEt)3 (211.5 g, 1.43 mol). The mixture was stirred at 80° C. for 4 h. The resulting slurry was filtered. The filter cake was suspended in methanol (300 mL) and MeONa (77.2 g, 1.43 mol) was added. The mixture was stirred at reflux for 5 h, followed by slow addition of HCl (4N) to pH 3 at rt. The resulting slurry was filtered and the filter cake was dried under vacuum to give compound (E)-1-(2-acetyl-4,4,4-trifluoro-3-oxobut-1-en-1-yl)urea (196 g, 67.3% yield) as a white solid. 1H NMR (DMSO-d6 300 MHz): (Z/E) δ 10.15-10.13 (m, 1H), 8.64 (s, 1H), 7.69-7.66 (m, 2H), 2.25 (s, 3H). LC-MS MS (ESI) m/z 206.8 [M−18+H]+.

reactant | 1,1,1-trifluoropentane-2,4-dione | 1.30 mol, 200 g | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
reactant | urea | 1.30 mol, 78 g | NC(=O)N | CH4N2O
reactant | CH(OEt)3 | 1.43 mol, 211.5 g | C(OCC)(OCC)OCC | C7H16O3
reactant | MeONa | 1.43 mol, 77.2 g | CO[Na]
reactant | HCl | 4N | Cl | ClH
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | (E)-1-(2-acetyl-4,4,4-trifluoro-3-oxobut-1-en-1-yl)urea | 196 g, 67.3% yield | C(C)(=O)\C(=C/NC(=O)N)\C(C(F)(F)F)=O | C7H7F3N2O3
